US06077866
To an acetonitrile solution (200 ml) of 4-bromomethyl-4'-fluorobenzophenone (20 g), an aqueous 15% sodium methylmercaptan solution (60 ml) was added and the mixture was heated for 6 hours with refluxing. After the reaction mixture was restored to room temperature, water (500 ml) and toluene (300 ml) were added. The organic layer was separated, which was then successively washed with an aqueous 2N sodium hydroxide solution and water, and dried over anhydrous magnesium sulfate. After distilling off the solvent, the crude product was purified by silica gel column chromatography (developing solvent n-hexane:ethyl acetate=9:1) to obtain 4-fluoro-4'-methylmercaptomethylbenzophenone (17 g).

reactant | acetonitrile | 200 ml | C(C)#N | C2H3N
reactant | 4-bromomethyl-4'-fluorobenzophenone | 20 g | BrCC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C14H10BrFO
reactant | sodium methylmercaptan | 60 ml | CS.[Na]
reactant | water | 500 ml | O | H2O
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 4-fluoro-4'-methylmercaptomethylbenzophenone | 17 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)CSC)C=C1 | C15H13FOS
